US06251926B1
To a solution of sodium ethoxide prepared from sodium (2.51 g) and ethanol (40 ml) was added dropwise a solution of 2-(3-bromophenyl)acetonitrile (17.8 g) in ethanol (30 ml) at 0° C., and then isoamyl nitrite (18.3 ml) was added dropwise thereto. After stirring at room temperature for 18 hours, diethyl ether was added, and washed successively with 1N hydrochloric acid, an aqueous sodium bicarbonate solution, and an aqueous saturated solution of sodium chloride. The diethyl ether layer was dried (MgSO4), concentrated, and the residue was subjected to silica gel chromatography to obtain 2-(3-bromophenyl)-2-(hydroxyimino)acetonitrile (19.9 g, yield 97%) as an orange paste from an ethyl acetate-hexane (1:1, v/v)-eluted fraction. Recrystallization from ethyl acetate-hexane gave orange crystals. m.p. 91-93° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 2.51 g | [Na] | Na
reactant | 2-(3-bromophenyl)acetonitrile | 17.8 g | BrC=1C=C(C=CC1)CC#N | C8H6BrN
reactant | isoamyl nitrite | 18.3 ml | N(=O)OCCC(C)C | C5H11NO2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(3-bromophenyl)-2-(hydroxyimino)acetonitrile | 19.9 g, yield 97% | BrC=1C=C(C=CC1)C(C#N)=NO | C8H5BrN2O
